US08895571B2
Step B: 4-(2-methoxyethyl)-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 4-(2-methoxyethyl)-1-methyl-1H-pyrazole (0.400 g, 2.85 mmol) in tetrahydrofuran (10 mL) at 0° C. was added 1.6 M n-butyllithium in hexane (6.24 mL, 9.99 mmol). The solution was stirred at room temperature for 1 h and then cooled down to −78° C. To the solution was added 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.70 mL, 3.4 mmol). The reaction was continued at −78° C. for 0.5 h, then warmed up to 0° C. (taking 0.5 h). The reaction mixture was quenched with brine, adjusted to pH=6-7 with 1 N HCl aqueous solution, and extracted with EtOAc (2×). The combined organic phases were washed with brine, dried over Na2SO4, and concentrated to give a brown oil which was further purified to provide 0.33 g (43% yield) of the desired product. LC-MS found: 267.1 (M+H)+.

reactant | 4-(2-methoxyethyl)-1-methyl-1H-pyrazole | 2.85 mmol, 0.400 g | COCCC=1C=NN(C1)C | C7H12N2O
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 9.99 mmol, 6.24 mL | CCCCCC | C6H14
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.4 mmol, 0.70 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(2-methoxyethyl)-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.33 g, 43% yield | COCCC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C13H23BN2O3
